US03978057
When 3,6-dichloro-4-isopropylamino pyridazine is substituted for 3,6-dichloro-4-ethylamino pyridazine in the above process, 4-isopropylamino-6-chloro-3-hydrazino pyridazine (m.p. 132° to 135°C) is obtained.

reactant | 3,6-dichloro-4-isopropylamino pyridazine | ClC=1N=NC(=CC1NC(C)C)Cl | C7H9Cl2N3
reactant | 3,6-dichloro-4-ethylamino pyridazine | ClC=1N=NC(=CC1NCC)Cl | C6H7Cl2N3
product | 4-isopropylamino-6-chloro-3-hydrazino pyridazine | C(C)(C)NC1=C(N=NC(=C1)Cl)NN | C7H12ClN5
